US05962458
7-Benzyloxy-6-methoxy-4-phenoxyquinazoline (160 mg, 0.44 mmol) in TFA (3 ml) was heated at reflux for 30 minutes. The solvent was removed by evaporation and the residue treated with aqueous sodium hydrogen carbonate solution. The precipitated product was collected by filtration, washed with water and dried to give 7-hydroxy-6-methoxy-4-phenoxyquinazoline (105 mg, 88%).

reactant | 7-Benzyloxy-6-methoxy-4-phenoxyquinazoline | 0.44 mmol, 160 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)OC1=CC=CC=C1)OC | C22H18N2O3
solvent | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 7-hydroxy-6-methoxy-4-phenoxyquinazoline | 105 mg, 88% | OC1=C(C=C2C(=NC=NC2=C1)OC1=CC=CC=C1)OC | C15H12N2O3
